### PR TITLE
[Merged by Bors] - feat: port LinearAlgebra.Span

### PR DESCRIPTION
**Pull request by LukasMias**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Span.lean [hunk 1]
```diff
@@ -0,0 +1,1068 @@
...
+    (g : G) (x : M) : (R ∙ g • x) = R ∙ x := by
+  refine' le_antisymm (span_singleton_smul_le R g x) _
+  convert span_singleton_smul_le R g⁻¹ (g • x)
+  exact (inv_smul_smul g x).symm
+#align submodule.span_singleton_group_smul_eq Submodule.span_singleton_group_smul_eq
+
+variable {R}
+
+theorem span_singleton_smul_eq {r : R} (hr : IsUnit r) (x : M) : (R ∙ r • x) = R ∙ x := by
+  lift r to Rˣ using hr
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Span.lean:455]: This complains with
```
./././Mathlib/LinearAlgebra/Span.lean:455:2: error: failed to synthesize
  CanLift R Rˣ ?m.157637 ?m.157638
```
because

https://github.com/leanprover-community/mathlib4/blob/1b617fcaa9246e0c51f0f6b9af7550c2af160f50/Mathlib/Algebra/Group/Units.lean#L585

I guess we should fix that porting note and add it back.

File: Mathlib/LinearAlgebra/Span.lean [hunk 2]
```diff
@@ -982,12 +981,14 @@ end AddCommMonoid
...
 section Field
 
-variable {K V} [Field K] [AddCommGroup V] [Module K V]
+variable [Field K] [AddCommGroup V] [Module K V]
 
 noncomputable section
 
 open Classical
 
+instance : Module K K := Semiring.toModule
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Span.lean:990]: This needs a porting note; I think this is the "structure eta not used in TC" problem, so we should reference the Lean issue here too.

File: Mathlib/LinearAlgebra/Span.lean [hunk 3]
```diff
@@ -0,0 +1,1075 @@
...
+
+end AddCommMonoid
+
+section Field
+
+variable [Field K] [AddCommGroup V] [Module K V]
+
+open Classical
+
+-- Porting note: TODO Erase this line. Needed because we don't have η for classes.
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Span.lean:988]:
```suggestion
-- Porting note: TODO Erase this line. Needed because we don't have η for classes (lean4#2074).
```
* https://github.com/leanprover/lean4/issues/2074

File: Mathlib/LinearAlgebra/Span.lean [hunk 4]
```diff
@@ -0,0 +1,1075 @@
...
+    LinearEquiv.toSpanNonzeroSingleton K V x h 1 =
+      (⟨x, Submodule.mem_span_singleton_self x⟩ : K ∙ x) := by
+  apply SetLike.coe_eq_coe.mp
+  have : ↑(toSpanNonzeroSingleton K V x h 1) = toSpanSingleton K V x 1 := rfl
+  rw [this, toSpanSingleton_one, Submodule.coe_mk]
+#align linear_equiv.to_span_nonzero_singleton_one LinearEquiv.toSpanNonzeroSingleton_one
+
+/-- Given a nonzero element `x` of a vector space `V` over a field `K`, the natural map
+    from the span of `x` to `K`.-/
+noncomputable -- Porting note: added since `toSpanNonzeroSingleton` is noncomputable
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Span.lean:1061]: Not sure this comment is needed; it's noncomputable in lean3 too.

File: Mathlib/LinearAlgebra/Span.lean (hunk 2 above)
Comment (jcommelin) [reply Mathlib/LinearAlgebra/Span.lean:992]: done

File: Mathlib/LinearAlgebra/Span.lean (hunk 4 above)
Comment (jcommelin) [reply Mathlib/LinearAlgebra/Span.lean:1061]: Ok, not sure why mathport didn't pick this up.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
